US04665073
A solution of 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valeronitrile (0.15 g.) in concentrated sulphuric acid (3 ml.) was stirred for 1.5 hours at room temperature then poured onto ice and basified with concentrated aqueous ammonia. Extraction with EtOAc gave 0.12 g. of a white solid which was triturated with ether to give 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valeramide (0.085 g., 54%), m.p. 162°-164°.

reactant | 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valeronitrile | 0.15 g | FC(CN=C(NC1=NN(C=N1)CCCCC#N)N)(F)F | C10H14F3N7
reactant | ammonia | N | H3N
reactant | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)-1,2,4-triazol-1-yl]valeramide | 0.085 g, 54% | FC(CN=C(NC1=NN(C=N1)CCCCC(=O)N)N)(F)F | C10H16F3N7O
